US07531558B2
6-(3,4-Difluorophenyl)nicotinic acid
The title compound was prepared from 3′,4′-difluoroacetophenone using the procedures outlined for 6-(4-fluorophenyl)nicotinic acid (D1-D3).

reactant | 3′,4′-difluoroacetophenone | FC=1C=C(C=CC1F)C(C)=O | C8H6F2O
reactant | 6-(4-fluorophenyl)nicotinic acid | FC1=CC=C(C=C1)C1=NC=C(C(=O)O)C=C1 | C12H8FNO2
product | 6-(3,4-Difluorophenyl)nicotinic acid | FC=1C=C(C=CC1F)C1=NC=C(C(=O)O)C=C1 | C12H7F2NO2
